US06759554B2
The general procedure under argon or air was followed using copper(I) iodide (10 mg, 0.05 mmol or 2.0 mg, 0.01 mmol), K3PO4 (425 mg, 2.00 mmol), 2-methoxyethylamine (104 μL, 1.20 mmol), iodobenzene (112 μL, 1.00 mmol), ethylene glycol (111 μL, 2.00 mmol) and 2-propanol (1.0 mL). Column chromatography using a solvent mixture (hexane/ethyl acetate=10/1, Rƒ=0.2) afforded N-(2-methoxyethyl)aniline (138 mg, 91% isolated yield) as colorless liquid. The spectral data (1H NMR) matched with the literature references and GC analysis indicated >95% purity. See Fancher, L. W.; Gless, R. D., Jr.; Wong, R. Y. Tetrahedron Lett. 1988, 29, 5095-5098.

reactant | K3PO4 | 2.00 mmol, 425 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 2-methoxyethylamine | 1.20 mmol, 104 μL | COCCN | C3H9NO
reactant | iodobenzene | 1.00 mmol, 112 μL | IC1=CC=CC=C1 | C6H5I
reactant | ethylene glycol | 2.00 mmol, 111 μL | C(CO)O | C2H6O2
catalyst | copper(I) iodide | 0.05 mmol, 10 mg | [Cu]I
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | N-(2-methoxyethyl)aniline | 138 mg, 91% | COCCNC1=CC=CC=C1 | C9H13NO
